US04536505
A solution of crude 3-[(p-ethoxycarbonylphenoxy)methyl]-N-(3-pyridyl)-indole (6.5 g) in 60 ml of ethanol and 60 ml of 1N sodium hydroxide is heated under reflux for 3 hours. The ethanol is distilled off, the aqueous phase is washed with ether, acidified with conc. hydrochloric acid to pH=6, and the resulting solid is filtered off to yield 3-[(p-carboxyphenoxy)-methyl]-N-(3-pyridyl)indole. Treatment with ethanolic hydrogen chloride gives 3-[(p-carboxyphenoxy)methyl]-N-(3-pyridyl)indole hydrochloride.

reactant | 3-[(p-ethoxycarbonylphenoxy)methyl]-N-(3-pyridyl)-indole | 6.5 g | C(C)OC(=O)C1=CC=C(OCC2=CN(C3=CC=CC=C23)C=2C=NC=CC2)C=C1 | C23H20N2O3
solvent | ethanol | 60 ml | C(C)O | C2H6O
solvent | sodium hydroxide | 1N, 60 ml | [OH-].[Na+]
product | 3-[(p-carboxyphenoxy)-methyl]-N-(3-pyridyl)indole | C(=O)(O)C1=CC=C(OCC2=CN(C3=CC=CC=C23)C=2C=NC=CC2)C=C1 | C21H16N2O3
